US07465731B2
4-Chlorobenzoyl chloride (0.19 mL) was added to a mixture of ethyl (2E)-3-[2-(4-piperidylamino)-1,3-thiazol-4-yl]acrylate dihydrochloride (0.5 g) and triethylamine (0.63 mL) in DMF (10 ml) under ice-cooling and the mixture was stirred at same temperature for 4.5 hours. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate and the mixture was extracted with an AcOEt. The extract layer was washed with water, dried over magnesium sulfate and evaporated in vacuo to give ethyl (2E)-3-(2-{[1-(4-chlorobenzoyl)-4-piperidyl]amino}-1,3-thiazol-4-yl)acrylate (0.48 g).

reactant | 4-Chlorobenzoyl chloride | 0.19 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethyl (2E)-3-[2-(4-piperidylamino)-1,3-thiazol-4-yl]acrylate dihydrochloride | 0.5 g | Cl.Cl.N1CCC(CC1)NC=1SC=C(N1)/C=C/C(=O)OCC
reactant | triethylamine | 0.63 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(2-{[1-(4-chlorobenzoyl)-4-piperidyl]amino}-1,3-thiazol-4-yl)acrylate | 0.48 g | ClC1=CC=C(C(=O)N2CCC(CC2)NC=2SC=C(N2)/C=C/C(=O)OCC)C=C1 | C20H22ClN3O3S
